US07667041B2
Synthesis of (R)-1-fluoromethyl-2-phenylethylamine on
A mixture of (R)-2-(1-fluoromethyl-2-phenylethyl)isoindol-1,3-dione (52 mg) and hydrazine hydrate (two drops) and ethanol (1 mL) was heated to reflux for 2 hours. The reaction solution was allowed to be cooled to room temperature, and the deposited crystal was separated by filtration and concentrated under reduced pressure. The residue was purified by LC-MS and 6.0 mg of the title compound was obtained.

reactant | (R)-2-(1-fluoromethyl-2-phenylethyl)isoindol-1,3-dione | 52 mg | FC[C@@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H14FNO2
catalyst | hydrazine hydrate | two drops | O.NN
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (R)-1-fluoromethyl-2-phenylethylamine | 6.0 mg | FC[C@@H](CC1=CC=CC=C1)N | C9H12FN
